US08076329B2
To 1-(3-hydroxypropyl)piperidine (287 mg) are successively added sodium (46 mg) and 2-chloro-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine (345 mg). The mixture is heated overnight, cooled back to room temperature and dissolved in dichloromethane (20 mL). The organic phase is washed with water (20 mL), dried over magnesium sulphate, concentrated under reduced pressure and purified over silica gel (eluent (dichloromethane/methanol from 100/0 to 90/10). Fraction containing the expected product are pooled and concentrated under reduced pressure. The crude base is dissolved in ethanol, oxalic acid (32 mg) is added and the precipitate that appears separated by filtration and dried to give 70 mg of 2-(3-piperidinopropoxy)-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine, dioxalate as a white solid melting at 122° C.

reactant | 1-(3-hydroxypropyl)piperidine | 287 mg | OCCCN1CCCCC1 | C8H17NO
reactant | sodium | 46 mg | [Na] | Na
reactant | 2-chloro-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine | 345 mg | ClC1=NC=CC(=C1)C1=CC=C(C=C1)OCCCN1C[C@H](CCC1)C | C20H25ClN2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(3-piperidinopropoxy)-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine | 70 mg | N1(CCCCC1)CCCOC1=NC=CC(=C1)C1=CC=C(C=C1)OCCCN1C[C@H](CCC1)C | C28H41N3O2
